US07601844B2
3-Acetyl-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)benzamide was added DMF-DMA (0.3 mL) and the reaction mixture heated at 105° C. for ˜5 h. The residual DMF-DMA was removed on a rotovap and the crude product was dried on house high vac for ˜3 h to afford N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-((E)-3-(dimethylamino)acryloyl)benzamide.

reactant | 3-Acetyl-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)benzamide | C(C)(=O)C=1C=C(C(=O)N[C@@H](C(=O)N2CC([C@@](CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C(C)C)C=CC1 | C27H33ClN2O4
reactant | DMF-DMA | 0.3 mL | CN(C)C(OC)OC | C5H13NO2
product | N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-((E)-3-(dimethylamino)acryloyl)benzamide | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(C1=CC(=CC=C1)C(\C=C\N(C)C)=O)=O)=O)(C)C)O | C30H38ClN3O4
